data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1444,"CCO.CC[N:1]1C(C)=C(CCO)S[C:2]1=[C:3](O)C1=CC=C(OC)C=C1.CC[NH+](CC)CC.C[C:4](=[O:5])[CH:6]=[CH2:7].[Br-]|(1, 2);((2, 3), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5593,"CCCCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,7813,"CC1=CC=C(C(=O)[O-])C=C1.C[Si]1(C)CCC2[CH:1](C1)[OH+:2]2|((1, 2), 2)"
train,pmechdb_split_0,0,6570,"CCN(CC)[C:1](=[O:2])[CH:3]=[CH2:4].CC[NH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3507,"ClCCSCC[OH+:1][H:2].[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9386,"C[Si](C)(C)[O+:1]1CCC[O:2][CH:3]1C|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,3775,"CC(C)C(C(=O)O)[NH+:1]=[C:2]1CCC2(C)C(=O)CCC2(O)[C:3]1(C)[H:4].CC(C)C(N)C(=O)[O-:5].O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8176,"COC1=C(OC)C=C(CC[N:1]=[C:2](C2=CC=C(Br)C=C2)[O:3]P(=O)(Cl)Cl)C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7833,"CO.C[OH+:1][CH2:2][NH:3]C(CC1=CC=C(O)C=C1)C(=O)O.O.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8420,"CC(=O)CC[CH:1]=[C:2](C)[O-:3].CC[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,8394,"CN1CCO[C:1]1([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2807,"CC=C(C)O[B:1]1C2CCCC1CCC2.CC=[O:2]|(2, 1)"
train,pmechdb_split_0,0,6062,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]CC2C[CH:3]=[CH:4]C2C)C=C1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7521,"CC1=C(O)C=C(C(C)C)C=C1.Cl[C:1](Cl)(Cl)[H:2].O.OC1=CC=CC(Cl)=C1Cl.[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8081,"CC[C:1]1(C)C(C)[Br+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4666,"CC(=O)[O-].COC1=CC2=C(C=C1)C=C([C:1]1([OH2+:2])CC=C(C3=CC=CC=C3)[NH:3]1)C=C2.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5848,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CCCCCCCCC=CCCCCCCCC(O)=[O:3].OCC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3026,"COC(=O)C1(C[CH:1]=[C:2](C)[OH:3])CCCC(Br)=C1O.O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7199,"CON(C)C(C)(C1=CC=CC=C1)[O-:1].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,10286,"CCCC=[O+:1][BH3-:2]|((2, 1), 1)"
train,pmechdb_split_0,0,8293,"CCOC(=O)[C:1](C)([H:2])[C:3](CC)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3392,"CC(C=O)C(C)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3321,"CC(=O)[O:1][H:2].CC([NH3+])(CCC(=O)C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2171,"CS[C:1](C)([OH:2])[OH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6873,"CCC[O:1][AlH3-:2].[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4225,"CC[O-:1].C[CH:2](C)[Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6673,"C[C:1](C)([OH:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6492,"COC1COC([O-:1])C(OS(C)(=O)=O)C1OC.CS(=O)(=O)[O:2][CH3:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1805,"COP(=O)(OC)[C:1](=[N+]=[N-])[CH:2](C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2379,"CCC(C)[N:1](C)C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2032,"[C-]#C[CH:1]=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10232,"C[O+:1]=[CH:2][S-]|((2, 1), 1)"
train,pmechdb_split_0,0,1870,"C=CC(OC1=CC=CC=C1)=[O:1].CC=CO[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C.O=S(=O)([N](S(=O)(=O)C(F)(F)F)[Al:2]([O]C1=CC=CC=C1)[O]C1=CC=CC=C1)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,5821,"C=C1CC(CCO[Si](C(C)C)(C(C)C)C(C)C)OC(CC(CC2OC(CCOCC3=CC=CC=C3)CCC2C)[O:1][B-](F)(F)F)C1.CC[O+](CC)[Si](C)(C)C.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7963,"CC[O-:1].C[S:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7464,"CCOC(=O)C[N-:1]N=N[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O|(1, 2)"
train,pmechdb_split_0,0,3421,"CCCCCC[NH+]1CCC23C4=C5C=CC(OC)=C4OC2C(=[O:1])CCC3C1C5.CO.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6429,"CCOC(C[P+:1](OCC)(OCC)[O:2][CH2:3]C)OCC.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,689,"C1=CC=C(CCCC[CH:1]=[CH2:2])C=C1.O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4641,"CCOC(=O)C(C)(C(I)I)[C:1](O)([O-:2])[O:3]CC.[K+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5723,"C=C(C)CC[O+:1](C(C)(C)CCO)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3694,"C1=CC=NC=C1.C1=CC=[NH+]C=C1.CC(=O)[O-].COC1=C(C(C)C)C(OC)=C(C(O[I:1]2(OC(C)=O)([O:2]C(C)=O)OC(=O)C3=C2C=CC=C3)C2=C(C)CCCC2(C)C)C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,9373,"CCCCCCN1CCC23C4=C5C=CC(OC)=C4[O+:1]([H:2])C2C(O)=CCC3C1C5.CCCCCC[N:3]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CO.CS(=O)(=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2877,"C1=CC2=C(C=C1)NC([C:1]1([H:2])C3=C(C=CC=C3)[NH+:3]=[CH:4]1)C2.O=C(C(F)(F)F)[O-:5]|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7994,"CN[CH:1]=[O+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,8276,"CS(=O)(=O)O[Si-:1](C)(C)(C)[CH2:2][CH+:3]C|((1, 2), 3)"
